**************************************************************
* (C) Copyright 2025 ROHM Co.,Ltd. All right reserved. 
**************************************************************
********** SPICE model: SCT4020DX_nsp_r4p1 *****************
*
*Released by       : ROHM Co., Ltd
*Component         : SCT4020DE
**                   Discrete
**                   750V 72A 20mOhm
*Date              : 2025/3/17
*Model Type        : Transient
*Format            : SPICE
*Model Revision    : NSP r4p1
*
****************Revision update history***********************
*1.0  - 2025/3/17 : first version
*
**************************************************************
*
* SCT4020D_nsp_r4p1
**************************************************************

*********************D G S
.SUBCKT SCT4020DE_L3 1 2 3
+ PARAMS:
+ Tj={TEMP}

*TO-247-3L Package Parasitics
.PARAM Lm = 0  R_shnt_pkg = 10  L_d = 2.276n  ESR_d = 82.14u  L_g = 8.824n  ESR_g = 19.44m
.PARAM L_ps = 4.817n  ESR_ps = 553.4u


R_RD   1 11 {ESR_d}
LD    11 12 {L_d}
RS_LD 11 12 {R_shnt_pkg}

RS_LG  2 21 {ESR_g}
LG    21 22 {L_g}
R_LG  21 22 {R_shnt_pkg}

R_RPS  3 31 {ESR_ps}
LPS   31 32 {L_ps - Lm}
R_LPS 31 32 {R_shnt_pkg}

V3   32 34 0



X1 12 22 34 Chip_SCT4020D_L3
+ TCNC={Tj}
.ENDS SCT4020DE_L3

********* ********* ********* ********* ********* ********* ********* ********* ********* *********
.SUBCKT Chip_SCT4020D_L3 D G S
+ PARAMS: TJNC={temp} kvf=1.0 delta_vt=0.0

* Channel current parameters
.PARAM  K=2.915E+00 A=7.903E-02 B=1.427E-02 C=-1.233E+01 D=-1.065E+01 E=-2.569E-04 F=-1.600E+01
+  P=2.110E+00 Q=3.344E-02 R=2.250E-01 RD=3.676E-04 L=7.759E-03 L2=7.410E-07 G=3.926E+00
+  GL=8.788E-05 TK=-7.557E-01 TA=-2.608E+00 TB=-1.121E-03 TC=1.627E-01 TD=-5.270E-01 TE=-6.584E-08
+  TF=-1.954E-02 TP=2.124E-01 TQ=-4.532E-01 TR=-3.891E-01 TRD=3.588E-07 TL=2.061E-05 TL2=1.000E-09
+  TG=-8.772E-01 TGL=9.269E-07

* Body diode parameters
.PARAM  VF={1.519158E-02*kvf} Kdi=1.022E-05 Gdi=1.709E+00 Cdi=1.629E-01 NN=2.034E-01 Rd_D=2.277E-02
+  Dibase=3.321E+00 TVF=5.272E+01 TKdi=3.818E-01 TGdi=-5.757E-01 TCdi=4.709E-01 TNN=1.891E-01
+  TRd_D=1.165E-03 TDibase=-1.361E-01

* Capacitance parameters
.PARAM  NDS=5.542E-01 CDS0=4.045E-09 CDSMIN=5.788E-17 CGS0=3.166E-09 NV=1.000E+00 CJO=6.398E+03 M=2.208E-02
+  VJ=2.385E+03 FC=1.365E-01 K6R=-2.915E-01 K7R=-5.498E+02 K8R=2.056E+00 K9R=-2.594E+00 K10R=9.398E-01
+  K11R=-1.441E+00 K12R=2.500E+03 CGSx=1.000E+01

* Parasitic gate resistance
.PARAM  RG=1.500E+00 RS=1.000E-06 RGSR=2.000E+00


************************************Above: Model Parameters****************************************
.PARAM K_T={K*(1+TK*TANH(0.01*(TJNC-25)))} A_T={A*(1+TA*TANH(0.01*(TJNC-25)))}
.PARAM B_T={B*(1+TB*TANH(0.01*(TJNC-25)))} C_T={(C-delta_vt)*(1+TC*TANH(0.01*(TJNC-25)))}
.PARAM E_T={(E-delta_vt)*(1+TE*TANH(0.01*(TJNC-25)))} F_T={(F-delta_vt)*(1+TF*TANH(0.01*(TJNC-25)))}
.PARAM D_T={(D-delta_vt)*(1+TD*TANH(0.01*(TJNC-25)))} P_T={P*(1+TP*TANH(0.01*(TJNC-25)))}
.PARAM Q_T={Q*(1+TQ*TANH(0.01*(TJNC-25)))} R_T={R*(1+TR*TANH(0.01*(TJNC-25)))}
.PARAM RD_T={RD*(1+TRD*TANH(0.01*(TJNC-25)))}
.PARAM L_T={L*(1+TL*TANH(0.01*(TJNC-25)))} L2_T={L2*(1+TL2*TANH(0.01*(TJNC-25)))}
.PARAM G_T={G*(1+TG*TANH(0.01*(TJNC-25)))} GL_T={GL*(1+TGL*TANH(0.01*(TJNC-25)))}
.PARAM VF_T={VF*(1+TVF*TANH(0.01*(TJNC-25)))} KDi_T={KDi*(1+TKDi*TANH(0.01*(TJNC-25)))}
.PARAM GDi_T={GDi*(1+TGDi*TANH(0.01*(TJNC-25)))} CDi_T={CDi*(1+TCDi*TANH(0.01*(TJNC-25)))}
.PARAM NN_T={NN*(1+TNN*TANH(0.01*(TJNC-25)))} TRd_D_T={Rd_D*(1+TRd_D*TANH(0.01*(TJNC-25)))}
.PARAM Dibase_T={Dibase*(1+TDibase*TANH(0.01*(TJNC-25)))}

*Functions
.FUNC ICH(VGS,VDS) {(0.5+0.5*TANH(100.0*VDS))
+                  *(K_T*(1.0+TANH(A_T*(VGS+C_T)+B_T*(VGS+D_T)**2+E_T*(VGS+F_T)**4)))*P_T*VDS/(R_T+Q_T*VDS)
+                  *(1.0+L_T*GL_T*(VGS-G_T)*(0.5+0.5*TANH(100*(VGS-G_T)))*VDS+L2_T*VDS*VDS)}
.FUNC IDI(VGS,VDS) {(0.5+0.5*TANH(100.0*(-1)*VDS))*KDi_T*(Dibase_T**((-VDS+VF_T+GDi_T*TANH(CDi_T*VGS))/NN_T)-1)}
.FUNC CDS(VDS)     {(CDS0*(ABS(VDS+1.0))**(-NDS)+CDSMIN)
+                  *(0.5+0.5*TANH(100*VDS))+(CDS0+CDSMIN)*(0.5-0.5*TANH(100*VDS))}
.FUNC C1(U,V,W)    {(CJO*(V-M)+VJ*(1-(-K7R)*TANH(W/(-K7R))/FC)**K6R)
+                  *(1+(TANH((U-K9R)/K10R)-1)/K8R)+K11R}
.FUNC CGD2(U,V,W)  {(K12R*C1(U,V,W))/(K12R+C1(U,V,W))}

*Node definitions
RD     D  DI {RD_T}
RG     G  GI {RG}
RS     S  SI {RS}
GC    DI  SI VALUE={MIN(MAX(ICH(V(GI,SI),V(DI,SI))-ICH(V(GI,SI),V(SI,DI)),-1000),1000)}
RDD   DI DDI {TRd_D_T-RD_T}
GD    SI DDI VALUE={MIN(MAX((0.5+0.5*TANH(100.0*(-1)*(V(DDI,SI)+0.0)))*KDi_T*(Dibase_T**
+               ((-V(DDI,SI)+VF_T+GDi_T*TANH(CDi_T*V(GI,SI)))/NN_T)-1),0.0),1000.0)}
CGDR  GI GDI 1p
VGDC GDI  DI 0
GGD   GI  DI VALUE={I(VGDC)*CGD2(V(GI,DI),MIN(MAX(V(GI,DI),M),0.35),MIN(V(GI,DI),M))}
CDSR SsI DSI 1p
VDSC  DI DSI 0
GDS   DI SsI VALUE={I(VDSC)*1e12*CDS(V(DI,SsI))}
CGSR  GI SSI {CGS0}
RGSR SSI  SI {RGSR}
CGSRP SSI SI {CGS0*CGSx}
RLRG1 DI  SI 1T
RLRG2 GI  DI 1T
RLRG3 GI  SI 1T

.ENDS Chip_SCT4020D_L3 

