* PWM-PFC-DBL-FB
* PFC Diode-Bridge-Less CCM & DCM Synchro Control model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2017/11/02
.SUBCKT PWM-PFC-DBL-FB AH1 AH0 AL1 AL0 BH1 BH0 BL1 BL0  FB
+ PARAMS: fps=50 fsw=50k td1=200n td2=200n tr1=10n tf1=10n tr2=10n tf2=10n
+ Rso1=2 Rsi1=1 Rso2=2 Rsi2=1 f02=5k GA=5k Vref=0.5 Vg_H=18 Vg_L=0 Iin=50
.PARAM t1={td1/2} t2={td2/2} t3={PI*(1-2*fsw*(t1+t2))} w1={PI*fsw}
********* ********* ********* ********* ********* ********* ********* ********* ********* ********* *********
V11 AH1  11 0
E11  11 AH0 VALUE={MIN(I(V11),0)*Rso1+MAX(I(V11),0)*Rsi1+IF(SIN(2*PI*fps*TIME)<0,Vg_L,
+                  MIN(MAX(Vg_H/w1*MAX(MIN(SIN(w1*(TIME-t1))/tr1,SIN(w1*(TIME-t1)+PI-t3*V(C))/tf1),
+                  MIN(SIN(w1*(TIME-t1)+PI)/tr1,SIN(w1*(TIME-t1)-t3*V(C))/tf1)),Vg_L),Vg_H))}
V12 AL1  12 0
E12  12 AL0 VALUE={MIN(I(V12),0)*Rso2+MAX(I(V12),0)*Rsi2+IF(SIN(2*PI*fps*TIME)<0,Vg_H,
+                  MIN(MAX(Vg_H/w1*MAX(MIN(SIN(w1*(TIME+t1))/tf2,SIN(w1*(TIME+t1)+PI+t3*(1-V(C)))/tr2),
+                  MIN(SIN(w1*(TIME+t1)+PI)/tf2,SIN(w1*(TIME+t1)+t3*(1-V(C)))/tr2)),Vg_L),Vg_H))}
V21 BH1  21 0
E21  21 BH0 VALUE={MIN(I(V21),0)*Rso1+MAX(I(V21),0)*Rsi1+IF(SIN(2*PI*fps*TIME)>0,Vg_L,
+                  MIN(MAX(Vg_H/w1*MAX(MIN(SIN(w1*(TIME-t1))/tr1,SIN(w1*(TIME-t1)+PI-t3*V(C))/tf1),
+                  MIN(SIN(w1*(TIME-t1)+PI)/tr1,SIN(w1*(TIME-t1)-t3*V(C))/tf1)),Vg_L),Vg_H))}
V22 BL1  22 0
E22  22 BL0 VALUE={MIN(I(V22),0)*Rso2+MAX(I(V22),0)*Rsi2+IF(SIN(2*PI*fps*TIME)>0,Vg_H,
+                  MIN(MAX(Vg_H/w1*MAX(MIN(SIN(w1*(TIME+t1))/tf2,SIN(w1*(TIME+t1)+PI+t3*(1-V(C)))/tr2),
+                  MIN(SIN(w1*(TIME+t1)+PI)/tf2,SIN(w1*(TIME+t1)+t3*(1-V(C)))/tr2)),Vg_L),Vg_H))}
E01   C   0 VALUE={MIN(MAX((ABS(V(FF))-V(D))*10k,0),1)}
R01   D   C {GA}
R02   D   E 1
R03   D   F 1
C01   E   C {1/2/PI/f02}
E02   F   0 VALUE={2**0.5*Vref*MAX(ABS(SIN(2*PI*fps*TIME)),0.01)}
R04  FB   0 1G
R44  FB  FF {(Iin-0.5)*10k}
R45  FF   0 5k
.ENDS PWM-PFC-DBL-FB
