* I-V
* LOW PASS Current to Voltage Converter model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2013/05/15
.SUBCKT I-V IN+ IN- OUT
+ PARAMS: f0=5k G=1
V1 IN+ IN- 0
E1 1   0   VALUE={I(V1)}
R1 1   2   1
C1 2   0   {1/2/PI/f0}
E2 OUT 0   VALUE={V(2)*G}
.ENDS I-V