* PWM-PFC-DBL-LHC
* Diode-Bridge-Less PFC L-H Chopping model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2017/11/29
.SUBCKT PWM-PFC-DBL-LHC AH1 AH0 AL1 AL0 BH1 BH0 BL1 BL0 FB
+ PARAMS: fps=50 fsw=50k SA=1 SB=1 td1=200n td2=200n tr1=10n tf1=10n tr2=10n tf2=10n
+ Vg_H=18 Vg_L=0 Rso1=0 Rsi1=0 Rso2=0 Rsi2=0 f02=5k GA=5k Vref=0.5 Iin=50
.PARAM t1={td1/2} t2={td2/2} t3={PI*(1-2*fsw*(t1+t2))} w1={PI*fsw}
********* ********* ********* ********* ********* ********* ********* ********* ********* ********* *********
V11 AH1  11 0
E11  11 AH0 VALUE={MIN(I(V11),0)*Rso1+MAX(I(V11),0)*Rsi1+IF(SIN(2*PI*fps*TIME)>0,(1-SA)*Vg_L+SA*
+                  MIN(MAX(Vg_H/w1*MAX(MIN(SIN(w1*(TIME+t2))/tf1,SIN(w1*(TIME+t2)+PI+t3*V(C))/tr1),
+                  MIN(SIN(w1*(TIME+t2)+PI)/tf1,SIN(w1*(TIME+t2)+t3*V(C))/tr1)),Vg_L),Vg_H),
+                  MIN(MAX(Vg_H/w1*MAX(MIN(SIN(w1*(TIME-t1))/tr1,SIN(w1*(TIME+t1+2*t2)+t3*V(C))/tf1),
+                  MIN(SIN(w1*(TIME-t1)+PI)/tr1,SIN(w1*(TIME+t1+2*t2)+PI+t3*V(C))/tf1)),Vg_L),Vg_H))}
V12 AL1  12 0
E12  12 AL0 VALUE={MIN(I(V12),0)*Rso2+MAX(I(V12),0)*Rsi2+IF(SIN(2*PI*fps*TIME)<0,(1-SA)*Vg_L+SA*
+                  MIN(MAX(Vg_H/w1*MAX(MIN(SIN(w1*(TIME+t1))/tf2,SIN(w1*(TIME+t1)+PI+t3*V(C))/tr2),
+                  MIN(SIN(w1*(TIME+t1)+PI)/tf2,SIN(w1*(TIME+t1)+t3*V(C))/tr2)),Vg_L),Vg_H),
+                  MIN(MAX(Vg_H/w1*MAX(MIN(SIN(w1*(TIME-t2))/tr2,SIN(w1*(TIME+2*t1+t2)+t3*V(C))/tf2),
+                  MIN(SIN(w1*(TIME-t2)+PI)/tr2,SIN(w1*(TIME+2*t1+t2)+PI+t3*V(C))/tf2)),Vg_L),Vg_H))}
V21 BH1  21 0
E21  21 BH0 VALUE={MIN(I(V21),0)*Rso1+MAX(I(V21),0)*Rsi1+
+                  IF(SIN(2*PI*fps*TIME)>-SIN(2*PI*fps*10u),Vg_L,(1-SB)*Vg_L+SB*Vg_H)}
V22 BL1  22 0
E22  22 BL0 VALUE={MIN(I(V22),0)*Rso2+MAX(I(V22),0)*Rsi2+
+                  IF(SIN(2*PI*fps*TIME)<SIN(2*PI*fps*10u),Vg_L,(1-SB)*Vg_L+SB*Vg_H)}
E01   C   0 VALUE={MIN(MAX((ABS(V(FF))-V(D))*10k,0),1)}
R01   D   C {GA}
R02   D   E 1
R03   D   F 1
C01   E   C {1/2/PI/f02}
E02   F   0 VALUE={2**0.5*Vref*ABS(SIN(2*PI*fps*TIME))}
R04  FB   0 1G
R44  FB  FF {(Iin-0.5)*10k}
R45  FF   0 5k
.ENDS PWM-PFC-DBL-LHC
