* Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\SlowLeg_driver\Eon_Eoff_circuit_reverse.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 Vds N003 0 IPZ60R017C7_L0 ;§pnba drain)gate)source
vDS 0 N002 {vDS}
RL N001 Vds {RL}
B1 int 0 V=idt( ( (time > 9.9u & time < 11u) | (time > 60u & time < 62u) )* abs(I(RL))*abs(V(Vds)) )
I1 N004 0 {iDS}
R4 N004 0 1
R1 Vds N003 10k
V1 N003 0 16
I2 N001 N002 PULSE(0 {iDS} 10u 60n 35n 50u 450u)
.param RL=(vDS/iDS)*0.9
.param vDS=0.1
.param iDS=500
.step dec param vDS 0.1 601 25
.step dec param iDS 0.1 500 10
.tran 70u
.meas TRAN V1 FIND V(int) AT 9.8u
.meas TRAN V2 FIND V(int) AT 13u
.meas TRAN V3 FIND V(int) AT 59u
.meas TRAN V4 FIND V(int) AT 65u
.meas TRAN EON PARAM (V2-V1)*1A*1s
.meas TRAN EOFF PARAM (V4-V3)*1A*1s
.meas TRAN VDS FIND V(N002) AT 60u
.meas TRAN IDS FIND I(I1) AT 60u
.meas TRAN VDSREAL FIND V(Vds) AT 50u
.meas TRAN IDSREAL FIND I(RL) AT 50u
.meas TRAN RDSON PARAM (abs(VDSREAL)/abs(IDSREAL))
.temp 25
* Library below included based on ModelFile attribute of instance X§U1 (Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\SlowLeg_driver\IPx6xx_L1.asy)
.lib Infineon_SimulationModel_CoolMOS_C7_MOSFET_600V_Spice.lib
.backanno
.end
