* C:\users\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\SlowLeg_driver\Si_driver_power_consumption.asc
* Generated by LTspice 26.0.1 for Windows.
V§PWM_sig sig 0 PULSE(0 3.3 1u 6.5n 3.2n 10m 20m)
Vgate_L VCC 0 16
X§U1 N005 N002 0 sig sig VCC VB VS IRS2183S ;§pnba LO)HO)COM)HIN)NLIN)VCC)VB)VS
V1 N001 0 450
R1 0 N004 4.5
R2 N006 N005 100
D2 N006 N005 D
D3 N003 N002 D
R3 N003 N002 100
C1 N003 VS 1n
C3 N006 0 1n
G1 N001 N004 N003 VS 1
G2 N004 0 N006 0 1
D4 N004 N001 D
D5 0 N004 D
Vgate_H VB VS 16
R4 N004 VS 10Meg
B1 int_L 0 V=idt( abs( I(Vgate_L) ) * abs( V(VCC) ) )
B2 int_H 0 V=idt( abs( I(Vgate_H) ) * abs( V(VB)-V(VS) ) )
.model D D
.lib C:\users\giorgio\Local Settings\Application Data\LTspice\lib\cmp\standard.dio
.tran 65m startup
* .options srcsteps=0
* .options gminsteps=0
.meas TRAN Energy_L FIND V(int_L) AT 20.0013m
.meas TRAN Energy_H FIND V(int_L) AT 20.0013m
.meas TRAN Power_L PARAM Energy_L*50*1A
.meas TRAN Power_H PARAM Energy_H*50*1A
.meas TRAN Power PARAM (Power_L+Power_H)
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\SlowLeg_driver\IRS2183S.asy)
.lib IRS2183S.lib
.backanno
.end
