* Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\SlowLeg_driver\Si_driver_validation.asc
* Generated by LTspice 26.0.1 for Windows.
V§PWM_sig sig 0 PULSE(5 0 1u 6.5n 3.2n 10m 20m 2)
Vgate_L N001 0 15
X§U1 N008 N003 0 sig sig N001 N004 N006 IRS2183S ;§pnba LO)HO)COM)HIN)NLIN)VCC)VB)VS
V1 N002 0 450
R1 0 N007 4.5
R2 N009 N008 100
D2 N009 N008 D
D3 N005 N003 D
R3 N005 N003 100
C1 N005 N006 100n
C3 N009 0 100n
G1 N002 N007 N005 N006 1
G2 N007 0 N009 0 1
D4 N007 N002 D
D5 0 N007 D
Vgate_H N004 N006 15
R4 N007 N006 10Meg
.model D D
.lib C:\users\giorgio\Local Settings\Application Data\LTspice\lib\cmp\standard.dio
.tran 40m startup
* .options srcsteps=0
* .options gminsteps=0
* Library below included based on ModelFile attribute of instance X§U1 (Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\SlowLeg_driver\IRS2183S.asy)
.lib IRS2183S.lib
.backanno
.end
