* Z:\home\giorgio\Scaricati\a-010_ac-dc_totem-pole_bridgeless_pfc_vin=200v_iin=100a_synchronous_fets_ltspice\A-010_AC-DC Totem-Pole Bridgeless PFC Vin=200V Iin=100A Synchronous FETs\AC-DC Totem-Pole Bridgeless PFC Vin=200V Iin=100A Synchronous FETs.asc
* Generated by LTspice 26.0.1 for Windows.
L1 N001 Q1_S 100µ
V1 N001 N002 SINE(0 {{Vin}*2**0.5} {fps})
V2 OUT 0 {Vo}
X§U2 Q3_S N002 U2 I-V f0=5k G=1 ;§pnba IN+)IN-)OUT
D1 N003 Q1_G RB160MM-40
D2 N007 Q2_G RB160MM-40
D3 N004 Q3_G RB160MM-40
D4 N008 Q4_G RB160MM-40
R3 U3_G N003 {Rg_off}
R4 U3_G N005 {Rg_on}
R5 U4_G N007 {Rg_off}
R6 U4_G N009 {Rg_on}
R7 U5_G N004 {Rg_off}
R8 U5_G N006 {Rg_on}
R9 U6_G N008 {Rg_off}
R10 U6_G N010 {Rg_on}
D5 Q1_G N005 RB160MM-40
D6 Q2_G N009 RB160MM-40
D7 Q3_G N006 RB160MM-40
D8 Q4_G N010 RB160MM-40
X§U3 OUT U3_G Q1_S SCT4020DE_L3 ;§pnba D)G)S
X§U4 Q1_S U4_G 0 SCT4020DE_L3 ;§pnba D)G)S
X§U5 OUT U5_G Q3_S SCT4020DE_L3 ;§pnba D)G)S
X§U6 Q3_S U6_G 0 SCT4020DE_L3 ;§pnba D)G)S
X§U1 Q1_G Q1_S Q2_G 0 Q3_G Q3_S Q4_G 0 U2 PWM-PFC-DBL-LHC fps=50 fsw=50k phase=0 td1=200n td2=200n tr1=10n tf1=10n tr2=10n tf2=10n Vg_H=18 Vg_L=0 Rso1=0 Rsi1=0 Rso2=0 Rsi2=0 f02=5k GA=5k Vref=0.5 ;§pnba AH1)AH0)AL1)AL0)BH1)BH0)BL1)BL0)FB
.model D D
.lib C:\users\giorgio\Local Settings\Application Data\LTspice\lib\cmp\standard.dio
.tran 0 20m 0 10n
.param Vin=200 Vo=400 fps=50 Iin=100 fsw=150k phase=0 Vg_H=18 Vg_L=0 Rg_on=2 Rg_off=1
.temp 100
* Vin=200Vac  Iin=100Aac  Vo=400Vdc\nfps=50Hz  fsw=50kHz  Tj=100degC
* Library below included based on ModelFile attribute of instance X§U3, X§U4, X§U5, X§U6 (Z:\home\giorgio\Scaricati\a-010_ac-dc_totem-pole_bridgeless_pfc_vin=200v_iin=100a_synchronous_fets_ltspice\A-010_AC-DC Totem-Pole Bridgeless PFC Vin=200V Iin=100A Synchronous FETs\SCT4020DE_L3.asy)
.lib SCT4020DE_L3.lib
* Library below included based on ModelFile attribute of instance X§U2 (Z:\home\giorgio\Scaricati\a-010_ac-dc_totem-pole_bridgeless_pfc_vin=200v_iin=100a_synchronous_fets_ltspice\A-010_AC-DC Totem-Pole Bridgeless PFC Vin=200V Iin=100A Synchronous FETs\I-V.asy)
.lib SS I-V.lib
* Library below included based on ModelFile attribute of instance X§U1 (Z:\home\giorgio\Scaricati\a-010_ac-dc_totem-pole_bridgeless_pfc_vin=200v_iin=100a_synchronous_fets_ltspice\A-010_AC-DC Totem-Pole Bridgeless PFC Vin=200V Iin=100A Synchronous FETs\PWM-PFC-DBL-LHC.asy)
.lib SS PWM-PFC-DBL-LHC.lib
.backanno
.end
