* Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\new_components\Si_MOSFET_Rds.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 drain N002 0 0 NC_01 N003 NC_02 IPQC60T010S7A_L3 dVth=-0.6 dRdson=-1 Zthtype=0 selfheat=-0.3 ;§pnba drain)gate)source)source_sense)ts)Tj)Tcase
Vg_rds N002 0 1
V_temp N003 0 125
Id_rds N001 drain 1
D1 drain N001 D
Vd_rds N001 0 10
.model D D
.lib C:\users\giorgio\Local Settings\Application Data\LTspice\lib\cmp\standard.dio
* .temp 125
.dc Id_rds 0 702 1 Vg_rds list 8 10 12 20
* Library below included based on ModelFile attribute of instance X§U1 (Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\new_components\IPQC60T010S7_L3.asy)
.lib IFX_S7A_TS_600V.lib
.backanno
.end
